US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-[2-[[(trifluoromethyl)sulfonyl]oxy]-3-pyridyl]ethyl]piperidine
110 mg of 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-(2-oxo-1,2-dihydro-3-pyridinyl)ethyl]piperidine, 382 mg of N-phenyltrifluoromethane sulfonimide, 311 mg of triethylamine and 13 mg of dimethylaminopyridine were dissolved in 5 ml of tetrahydrofuran, and the mixture was stirred at room temperature for 20 hours. The solvent was evaporated, and the residue was purified and separated by NH form silica gel column chromatography (ethyl acetate:hexane=1:9), to give 151 mg of the title compound as a colorless oil.

reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-(2-oxo-1,2-dihydro-3-pyridinyl)ethyl]piperidine | 110 mg | COC1=NC=CC=C1CN1CCC(CC1)CCC=1C(NC=CC1)=O | C19H25N3O2
reactant | N-phenyltrifluoromethane sulfonimide | 382 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 311 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 13 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-[2-[[(trifluoromethyl)sulfonyl]oxy]-3-pyridyl]ethyl]piperidine | 151 mg | COC1=NC=CC=C1CN1CCC(CC1)CCC=1C(=NC=CC1)OS(=O)(=O)C(F)(F)F | C20H24F3N3O4S
